US05763599
N4 -(2-(4-nitrophenyl)ethoxycarbonyl)-2'-deoxycytidine (5 g, 11.9 mmol) was co-evaporated with pyridine (2×60 ml, pro analysi quality, additionally dried over molecular sieve 4 Å), dissolved in pyridine (60 ml, see above) and cooled to -60° C. (i-PrOH/N2). A solution of 2-(2-chloro-6-nitrophenyl)ethoxycarbonyl chloride (4.7 g, 17.8 mmol) in CH2Cl2 (60 ml, dist. over CaH2) was added dropwise thereto for 75 min and was stirred for 1 h 45 min in conditions of i-PrOH/N2 cooling (-40° to -25° C.). The mixture was diluted with CH2Cl2 (150 ml) and washed with H2O (100 ml). The aqueous phases were post-extracted with CH2Cl2 (100 ml). Drying the organic phases over Na2SO4, filtering, evaporating the solvent under reduced pressure and co-evaporating with toluene (3×50 ml) yielded the crude product (9.8 g) which was purified by column chromatography (440 g SiO2, 32×5.9 cm, solvent: CH2Cl2 /MeOH 100:4). 5'-O-(2-(2-chloro-6-nitrophenyl)ethoxycarbonyl)-N4 -(2-(4-nitrophenyl)ethoxycarbonyl)-2'-deoxycytidine (5.247 g, 680%) was obtained as a colourless foam.

reactant | N4 -(2-(4-nitrophenyl)ethoxycarbonyl)-2'-deoxycytidine | 11.9 mmol, 5 g | [N+](=O)([O-])C1=CC=C(C=C1)CCOC(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1)=O | C18H20N4O8
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-(2-chloro-6-nitrophenyl)ethoxycarbonyl chloride | 17.8 mmol, 4.7 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])CCOC(=O)Cl | C9H7Cl2NO4
reactant | i-PrOH N2 | CC(C)O.N#N
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 5'-O-(2-(2-chloro-6-nitrophenyl)ethoxycarbonyl)-N4 -(2-(4-nitrophenyl)ethoxycarbonyl)-2'-deoxycytidine | 5.247 g, 680% | ClC1=C(C(=CC=C1)[N+](=O)[O-])CCOC(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(NC(=O)OCCC2=CC=C(C=C2)[N+](=O)[O-])C=C1)O | C27H26ClN5O12
